US04764519
(e) 2-[4-(5-Bromo-3-methylpyrid-2-yl)butylamino]-3-nitro-5-(pyrid-3-ylmethyl)pyridine
A mixture of 4-(5-bromo-3-methylpyrid-2-yl)butylamine (11.79 g) and 2-chloro-3-nitro-5-(pyrid-3-ylmethyl)pyridine hydrochloride (4.57 g) was refluxed in ethanol (100 ml) for 8 hours. The solvent was removed in vacuo, the residue was dissolved in water (100 ml) and then extracted with chloroform (100 ml). The chloroform extract was chromatographed on silica eluted with 5% v/v methanol in chloroform followed by recrystallisation from chloroform/hexane to give the title compound as a yellow solid, m.p. 82°-84° C.

reactant | 4-(5-bromo-3-methylpyrid-2-yl)butylamine | 11.79 g | BrC=1C=C(C(=NC1)CCCCN)C | C10H15BrN2
reactant | 2-chloro-3-nitro-5-(pyrid-3-ylmethyl)pyridine hydrochloride | 4.57 g | Cl.ClC1=NC=C(C=C1[N+](=O)[O-])CC=1C=NC=CC1
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-[4-(5-Bromo-3-methylpyrid-2-yl)butylamino]-3-nitro-5-(pyrid-3-ylmethyl)pyridine | BrC=1C=C(C(=NC1)CCCCNC1=NC=C(C=C1[N+](=O)[O-])CC=1C=NC=CC1)C | C21H22BrN5O2
